US08748624B2
STEP C: methyl 3-(5-(5-chloro-2-(((4-iodophenyl)amino)methyl)phenyl)picolinamido)propanoate
Solid NaBH(OAc)3 (1.3 g, 6.0 mmol) was added to a DCM solution (6 mL) of methyl 3-(5-(5-chloro-2-formylphenyl)picolinamido)propanoate (1.0 g, 3.0 mmol) and 4-iodoaniline (723 mg, 3.3 mmol), and the resulting mixture was stirred at room temperature. After 3 h the resulting mixture diluted with DCM and saturated aqueous Na2CO3 and the layers were separated. The aqueous phase was extracted with DCM and the combined organics were dried (Na2SO4), concentrated and purified via column chromatography to yield the title compound.

reactant | NaBH(OAc)3 | 6.0 mmol, 1.3 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | methyl 3-(5-(5-chloro-2-formylphenyl)picolinamido)propanoate | 3.0 mmol, 1.0 g | ClC=1C=CC(=C(C1)C=1C=CC(=NC1)C(=O)NCCC(=O)OC)C=O | C17H15ClN2O4
reactant | 4-iodoaniline | 3.3 mmol, 723 mg | IC1=CC=C(N)C=C1 | C6H6IN
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
product | methyl 3-(5-(5-chloro-2-(((4-iodophenyl)amino)methyl)phenyl)picolinamido)propanoate | ClC=1C=CC(=C(C1)C=1C=CC(=NC1)C(=O)NCCC(=O)OC)CNC1=CC=C(C=C1)I | C23H21ClIN3O3
